US07700786B2
Potassium carbonate (0.75 g, 5.4 mmol) and isopropyl isocyanate (0.46 g, 5.4 mmol) were added to a solution of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole (1.00 g, 3.6 mmol) in ethyl acetate (10 ml), and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a colorless viscous substance of N-isopropyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (0.91 g, yield: 69.7%). 1H-NMR (CDCl3, TMS, ppm): δ 1.25 (d, J=6.5 Hz, 6H), 2.65 (d, J=0.8 Hz, 3H), 3.95-4.20 (m, 1H), 6.04 (q, J=0.8 Hz, 1H), 6.80˜7.00 (m, 1H), 8.02 (d, J=2.3 Hz, 1H), 8.35 (m, 1H).

reactant | Potassium carbonate | 5.4 mmol, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl isocyanate | 5.4 mmol, 0.46 g | C(C)(C)N=C=O | C4H7NO
reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole | 3.6 mmol, 1.00 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)C | C10H7ClF3N3O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-isopropyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 0.91 g, yield: 69.7% | C(C)(C)NC(=O)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F | C14H14ClF3N4O2
